US06022492
Synthesis of 5-bromo-2-hexyloxypyridine
A solution of 300 mmol of 1-hexanol in 100 ml of DMF is added dropwise at 50° C. under a protective gas to a suspension of 300 mmol of sodium hydride (80 percent in mineral oil) in 100 ml of dry DMF. The mixture is stirred at 80° C. for 1 hour, and a solution of 200 mmol of 2,5-dibromopyridine in 150 ml of warm DMF is subsequently slowly added dropwise. The mixture is then stirred at 80° C. for 3-4 hours. For hydrolysis, the cooled reaction mixture is introduced into 1 l of ice/water, the mixture is extracted a number of times with dichloromethane, and the combined organic extracts are washed with sat. sodium chloride solution and dried using sodium sulfate. After the solvent has been removed in vacuo, the residue is chromatographed on silica gel 60 using dichloromethane as eluent, giving 52 g (quant. yield) of a viscous liquid.

reactant | 1-hexanol | 300 mmol | C(CCCCC)O | C6H14O
reactant | sodium hydride | 300 mmol | [H-].[Na+]
reactant | 2,5-dibromopyridine | 200 mmol | BrC1=NC=C(C=C1)Br | C5H3Br2N
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 5-bromo-2-hexyloxypyridine | 52 g, quant. yield | BrC=1C=CC(=NC1)OCCCCCC | C11H16BrNO
